US04810806
A suspension of 12.0 g (0.25 mol) of 50% NaH in mineral oil in 100 mL of dry diglyme (diethylene glycol dimethyl ether) was stirred at 25° under nitrogen while a solution of 23.5 g (0.25 mol) of phenol in 50 mL of diglyme was added. The resulting mixture was stirred until evolution of gas ceased, then charged into a 400 mL metal tube along with 44.3 g (0.25 mol) of 2-chloroethyl trifluoroacetate and 40 g (0.70 mol) of tetrafluoroethylene. The resulting mixture was agitated for 6 h while the temperature rose to 34° and subsided. Next the mixture was heated at 50° for 6 h. The resulting reaction mixture was added to 1 L of water, thereby causing the formation of layers. The lower layer was separated, washed with water, dried over CaSO4, and distilled to give 61.2 g (73% yield) of 2-trifluoromethyl-2-(2-phenoxytetrafluoroethyl)-1,3-dioxolane, b.p. 64°-67° at 13 Pa (0.1 mm). The IR (CCl4) and NMR (CCl4) spectra of the product were consistent with the structure assignment.

reactant | NaH | 0.25 mol, 12.0 g | [H-].[Na+]
reactant | phenol | 0.25 mol, 23.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloroethyl trifluoroacetate | 0.25 mol, 44.3 g | FC(C(=O)OCCCl)(F)F | C4H4ClF3O2
reactant | tetrafluoroethylene | 0.70 mol, 40 g | FC(=C(F)F)F | C2F4
solvent | diglyme | 100 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 50 mL | COCCOCCOC | C6H14O3
solvent | water | 1 L | O | H2O
product | 2-trifluoromethyl-2-(2-phenoxytetrafluoroethyl)-1,3-dioxolane | 61.2 g, 73% yield | FC(C1(OCCO1)C(C(OC1=CC=CC=C1)(F)F)(F)F)(F)F | C12H9F7O3
